US04258058
A mixture of 139.1 g. (1 mol) 4-nitrophenol, 1 liter butan-2-one and 207.3 (1.5 mol) pulverized, anhydrous potassium carbonate is stirred for 2 hours at reflux temperature, then 292.5 g. (1.5 mol) ethyl 2-bromo-2-methylpropionate are added thereto and the reaction mixture maintained at reflux temperature for a further 92 hours. After the addition of a further 69.1 g. (0.5 mol) potassium carbonate and 97.5 g. (0.5 mol) ethyl 2-bromo-2-methyl-propionate, the reaction mixture is stirred for a further 20 hours at reflux temperature. The reaction mixture is then filtered with suction and the filtrate is evaporated in a vacuum (for the removal of excess ethyl ester, finally at a high vacuum). The residue is taken up in diethyl ether, filtered and the ethereal phase now extracted several times with 1 N aqueous sodium hydroxide solution. After washing until neutral and drying, it is evaporated, 153 g. (60% of theory) of an oily crude product being obtained. After distillation at 155.5°-156° C./0.05 mm.Hg., there is obtained a yield of 46% of theory of pure ethyl 2-methyl-2-(4-nitrophenoxy)-propionate in the form of a yellow oil with a refractive index of nD20 =1.5288.

reactant | 4-nitrophenol | 1 mol | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromo-2-methylpropionate | 1.5 mol | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | potassium carbonate | 0.5 mol | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromo-2-methyl-propionate | 0.5 mol | BrC(C(=O)OCC)(C)C | C6H11BrO2
solvent | butan-2-one | 1 liter | CC(CC)=O | C4H8O
product | ethyl 2-methyl-2-(4-nitrophenoxy)-propionate | yield of 46% | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)[N+](=O)[O-] | C12H15NO5
